US04906634
N-[4-[[2-(Diethylamino)ethyl]amino]phenyl]methanesulfonamide
To tetrahydrofuran (15 mL) under a nitrogen atmosphere add 2.0 g (6.8 mmol) of 2-diethylamino-N-[4-[(methylsulfonyl)amino]phenyl]acetamide and 0.60 g (16 mmol) of lithium aluminum hydride. When the addition is complete stir the reaction at reflux. Monitor the progress of the reaction by thin-layer chromatography on silica gel (CH2Cl2 :MeOH, 9:1). Upon completion of the reaction add 1 mL of H2O, 1 mL of 2N NaOH, 2 mL of water, and 50 mL ethyl acetate. The solid material is removed by suction filtration through celite and the solvent is removed in vacuo. Chromatrograph the resulting oil on silica gel with CH2Cl2 :MeOH, 9:1 followed by CH2Cl2MeOH, 2:1. Combine the product fractions and remove the solvent in vacuo. Dissolve the residue in 48% aqueous HBr and remove the solvent. Recrystallize from methanol/isopropanol to afford the title compound.

reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | 2-diethylamino-N-[4-[(methylsulfonyl)amino]phenyl]acetamide | 6.8 mmol, 2.0 g | C(C)N(CC(=O)NC1=CC=C(C=C1)NS(=O)(=O)C)CC | C13H21N3O3S
reactant | lithium aluminum hydride | 16 mmol, 0.60 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2N, 1 mL | [OH-].[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | H2O | 1 mL | O | H2O
product | N-[4-[[2-(Diethylamino)ethyl]amino]phenyl]methanesulfonamide | C(C)N(CCNC1=CC=C(C=C1)NS(=O)(=O)C)CC | C13H23N3O2S
